US20010044412A1
Synthesis of epichlorohydrin-β-cyclodextrin Copolymer
β-Cyclodextrin (0.5 gm, 0.38 mmol) and sodium hydroxide (0.18 gm, 4.5 mmol) were dissolved in water (0.8 mL) and heated to 30° C. To this solution was added epichlorohydrin (0.345 mL, 4.4 mmol) and the immiscible solutions were stirred at 30° C. for 3.5 h, during which time the epichlorohydrin dissolved in the aqueous solution. The epichlorohydrin-β-cyclodextrin copolymer was then precipitated by the addition of acetone (10 mL). The acetone was decanted and the precipitate was dissolved in water (20 mL) and dialyzed in 14,000 molecular weight cutoff tubing against 2×1 L water for 48 h. The polymer was then isolated by lyophilization to yield 0.3 gm of polymer.

reactant | β-Cyclodextrin | 0.38 mmol, 0.5 gm | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | C42H70O35
reactant | sodium hydroxide | 4.5 mmol, 0.18 gm | [OH-].[Na+]
reactant | epichlorohydrin | 4.4 mmol, 0.345 mL | C(Cl)C1CO1 | C3H5ClO
solvent | water | 0.8 mL | O | H2O
product | epichlorohydrin β-cyclodextrin | 0.3 gm | C(Cl)C1CO1.C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | InChI=1S/C42H70O35.C3H5ClO/c43-1-8-29-15(50)22(57)36(64-8)72-30-9(2-44)66-38(24(59)17(30)52)74-32-11(4-46)68-40(26(61)19(32)54)76-34-13(6-48)70-42(28(63)21(34)56)77-35-14(7-49)69-41(27(62)20(35)55)75-33-12(5-47)67-39(25(60)18(33)53)73-31-10(3-45)65-37(71-29)23(58)16(31)51;4-1-3-2-5-3/h8-63H,1-7H2;3H,1-2H2/t8-,9-,10-,11-,12-,13-,14-,15-,16-,17-,18-,19-,20-,21-,22-,23-,24-,25-,26-,27-,28-,29-,30-,31-,32-,33-,34-,35-,36-,37-,38-,39-,40-,41-,42-;/m1./s1
